US09290517B2
Step A: (3R,3aS,6S,6aS)-hexahydrofuro[3,2-b]furan-3,6-diyl bis(4-methylbenzenesulfonate)
p-Toluenesulfonyl chloride (2722 g, 14.28 mol) was added to a solution of isosorbide (869 g, 5.95 mol) in pyridine (5000 mL) in portions with stirring at 0° C. After the reaction mixture was stirred at ambient temperature overnight, the mixture was poured into ice-water (5000 mL) with stirring, and extracted with DCM (4000 mL×3). The combined organic layers were washed successively with water (3000 mL×3), 1 N aqueous HCl (3000 mL×3, pH=6), and saturated aqueous NaHCO3 (3000 mL×2), and dried over anhydrous Na2SO4. After removal of the solvent via vacuum, ethanol (1000 mL) was added. The resulting precipitate was filtered, and washed with ethanol to give the desired product as a white solid.

reactant | p-Toluenesulfonyl chloride | 14.28 mol, 2722 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | isosorbide | 5.95 mol, 869 g | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
solvent | pyridine | 5000 mL | N1=CC=CC=C1 | C5H5N
product | (3R,3aS,6S,6aS)-hexahydrofuro[3,2-b]furan-3,6-diyl bis(4-methylbenzenesulfonate) | CC1=CC=C(C=C1)S(=O)(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@H](CO2)OS(=O)(=O)C2=CC=C(C=C2)C | C20H22O8S2
